US06831080B2
Step B: (±)-1-(3-Fluoro-5-morpholin-4-yl-phenyl)ethylamine
A mixture of 1-(3-fluoro-5-morpholin-4-yl-phenyl)ethanone (2.23 g), NH2OH.HCl (1.4 g), and Et3N (2.8 mL) in EtOH (20 mL) was refluxed for 3 hours. After concentration, the residue was extracted with CH2Cl2. The organic layer was washed with water, dried over MgSO4 and concentrated in vacuo. A suspension of the resulting residue (2.23 g) and Ra—Ni (1 mL) in a mixture of 3 mL of 30% ammonium hydroxide and 15 mL of MeOH was hydrogenated at 50 psi for 16 hours. The crude reaction mixture was filtered through Celite, and the filtrate was concentrated in vacuo. The crude product was purified by silica gel flash chromatography (10% ammonium hydroxide in methanol) to give 1.665 g of the title compound as an oil.

reactant | 1-(3-fluoro-5-morpholin-4-yl-phenyl)ethanone | 2.23 g | FC=1C=C(C=C(C1)N1CCOCC1)C(C)=O | C12H14FNO2
reactant | NH2OH.HCl | 1.4 g | NO.Cl
reactant | Et3N | 2.8 mL | CCN(CC)CC | C6H15N
solvent | EtOH | 20 mL | CCO | C2H6O
product | (±)-1-(3-Fluoro-5-morpholin-4-yl-phenyl)ethylamine | 1.665 g | FC=1C=C(C=C(C1)N1CCOCC1)C(C)N | C12H17FN2O
